US07645753B2
3-Butoxy-4-methoxy-benzaldehyde
The title compound was prepared analogously to intermediate 2 (4-methoxy-3-propoxy-benzaldehyde) by reaction of 3-hydroxy-4-methoxy-benzaldehyde with 4-bromo-butane in DMF using K2CO3 as base. MS (ISP): 209.1 [M+H]+.

reactant | 3-hydroxy-4-methoxy-benzaldehyde | OC=1C=C(C=O)C=CC1OC | C8H8O3
reactant | 4-bromo-butane | BrCCCC | C4H9Br
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | CN(C)C=O | C3H7NO
product | 3-Butoxy-4-methoxy-benzaldehyde | C(CCC)OC=1C=C(C=O)C=CC1OC | C12H16O3
